US07868047B2
Experiment 27. 1-(3,5-Dimethoxy-4-1-propylphenyl)-2-(2,4,6-trifluorophenyl)ethene (33B)
This compound was synthesized from (3,5-dimethoxy-4-1-propylphenyl)ethene and 1-bromo-2,4,6-trifluorobenzene in 58% yield in the same procedure as described in preparation of 31B. 1HNMR (CDCl3, ppm): δ 1.32 (d, J=7.0 Hz, 6H), 3.62 (qint, J=7.1 Hz, 1H), 3.89 (s, 6H), 6.73 (s, 2H), 6.79-7.55 (m, 4H).

reactant | (3,5-dimethoxy-4-1-propylphenyl)ethene | COC=1C=C(C=C(C1CCC)OC)C=C | C13H18O2
reactant | 1-bromo-2,4,6-trifluorobenzene | BrC1=C(C=C(C=C1F)F)F | C6H2BrF3
product | 1-(3,5-Dimethoxy-4-1-propylphenyl)-2-(2,4,6-trifluorophenyl)ethene | 58% yield | COC=1C=C(C=C(C1CCC)OC)C=CC1=C(C=C(C=C1F)F)F | C19H19F3O2
